US05109130
A suspension of 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate (syn-isomer) (10 g) in water (10 ml) is adjusted to pH 1.0 with 2N-hydrochloric acid at 20° C. with stirring. The resulting solution is further stirred at the same temperature for 2 hours and the resultant crystals are collected by filtration and dried to give crystals of 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate hydrochloride (syn-isomer) (6.7 g).

reactant | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate | 10 g | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)CCO)C(=O)[O-])C1=O)=NOC(C)(C)C(=O)O | C21H25N9O8S2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate hydrochloride | 6.7 g | Cl.NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)CCO)C(=O)[O-])C1=O)=NOC(C)(C)C(=O)O | InChI=1S/C21H25N9O8S2.ClH/c1-21(2,19(36)37)38-26-11(14-25-20(23)40-27-14)15(32)24-12-16(33)30-13(18(34)35)9(8-39-17(12)30)7-28-4-3-10(22)29(28)5-6-31;/h3-4,12,17,22,31H,5-8H2,1-2H3,(H5,23,24,25,27,32,34,35,36,37);1H/t12-,17-;/m1./s1
